US06583135B2
Preparation of tert-Butyl 7,9-Dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
Sodium hydride (60% dispersion in mineral oil, 0.25 g, 6.3 mmol) was added to a solution of tert-butyl 7,9-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (1.5 g, 4.2 mmol) in DMF (15 mL). After 20 min, ethyl bromoacetate (0.94 mL, 8.4 mmol) was added. The reaction was quenched with saturated aqueous NH4Cl after 2 h and extracted with EtOAc (3×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40M) with heptane/EtOAc (3:1) to give 1.8 g (98%) of a white solid: mp 117.0-120.0° C.; IR (diffuse reflectance) 2972, 1744, 1690, 1464, 1409, 1377, 1366, 1349, 1294, 1222, 1204, 1190, 1167, 1111, 861 cm−1; MS (EI) m/z 440 (M+), 440, 386, 385, 384, 339, 311, 310, 300, 298, 57; Anal. Calcd for C21H26Cl2N2O4: C, 57.15; H, 5.94; N, 6.35; found: C, 56.97; H, 5.97; N, 6.19.

reactant | Sodium hydride | 6.3 mmol, 0.25 g | [H-].[Na+]
reactant | tert-butyl 7,9-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 4.2 mmol, 1.5 g | ClC1=CC(=CC=2C3=C(NC12)CCN(CC3)C(=O)OC(C)(C)C)Cl | C17H20Cl2N2O2
reactant | ethyl bromoacetate | 8.4 mmol, 0.94 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 7,9-Dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 1.8 g, 98% | ClC1=CC(=CC=2C3=C(N(C12)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
